US09034866B2
Synthesis of (±)-3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-10-(3,4-dihydroxy-3-methyl-but-1-ynyl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide
3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-10-(3,4-dihydroxy-3-methyl-but-1-ynyl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide was prepared similarly according to General Procedure E with slight modification. 10-bromo-3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide was reacted with 2-methylbut-3-yne-1,2-diol in a solution of DMF (1.3 mL/mmol) and diisopropylamine (2.6 mL/mmol) to afford 30 mg of the titled compound (47.1% yield). M+1=453.0.

reactant | 10-bromo-3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3=NC(=NN3)C3CC3)C1)F | C17H14BrFN6O2
reactant | 2-methylbut-3-yne-1,2-diol | CC(CO)(C#C)O | C5H8O2
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | (±)-3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-10-(3,4-dihydroxy-3-methyl-but-1-ynyl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 30 mg, 47.1% yield | C1(CC1)C1=NNC(=N1)C1=C(N=C2N1CCOC1=C2C=C(C(=C1)F)C#CC(CO)(C)O)C(=O)N | C22H21FN6O4
